US05506256
D) (2S)-2-{[(S)-4-methoxyphenylsulfinyl]acetyl}-1-[N-(3-phenylpropionyl)-L-prolyl]pyrrolidine
To diisopropylamine (0.13 ml) in THF (8 ml) was dropwise added 1.62M n-butyllithium-hexane solution (1.2 ml) at -78° C., followed by stirring at 0° C. for 0.5 hour. The reaction mixture was cooled to -30° C., dropwise added with (S)-(-)-4methoxyphenyl methyl sulfoxide (157 mg) in THF (8 ml), and stirred at 0° C. for 0.5 hour. The reaction mixture was cooled to -78° C., added with N-(3-phenylpropionyl)-L-prolyl-L-proline benzyl ester (400 mg) in THF (8 ml) quickly, and stirred for 0.5 hour. The reaction mixture was treated as in Example 13-A) and the residue obtained was purified by medium pressure liquid chromatography (silica gel, eluate; chloroform:methanol=99:1) to give 195 mg of the title compound (See Table 5).

reactant | diisopropylamine | 0.13 ml | C(C)(C)NC(C)C | C6H15N
reactant | (S)-(-)-4methoxyphenyl methyl sulfoxide | 157 mg | C[S@](=O)C1=CC=C(C=C1)OC | C8H10O2S
reactant | N-(3-phenylpropionyl)-L-prolyl-L-proline benzyl ester | 400 mg | C(C1=CC=CC=C1)OC([C@H]1N(CCC1)C([C@H]1N(CCC1)C(CCC1=CC=CC=C1)=O)=O)=O | C26H30N2O4
solvent | THF | 8 ml | C1CCOC1 | C4H8O
solvent | THF | 8 ml | C1CCOC1 | C4H8O
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | (2S)-2-{[(S)-4-methoxyphenylsulfinyl]acetyl}-1-[N-(3-phenylpropionyl)-L-prolyl]pyrrolidine | 195 mg | COC1=CC=C(C=C1)[S@@](=O)CC(=O)[C@H]1N(CCC1)C([C@H]1N(CCC1)C(CCC1=CC=CC=C1)=O)=O | C27H32N2O5S
